datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]1([H:14])([H:15])[C:8]([H:16])([H:17])[C:9]2([H:18])[C:10]([H:19])([H:20])[C:11]([H:21])([H:22])[C:12]1([H:23])[C:13]2([H:24])[H:25]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:24])[H:4].[C:7]1([H:14])([H:15])[C:8]([H:16])([H:17])[C:9]2([H:18])[C:10]([H:19])([H:20])[C:11]([H:21])([H:22])[C:12]1([H:23])[C:13]2[H:25],34.3088
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([C:9]([H:13])([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]=[C:6]([H:11])[H:12])([C:9]([H:13])([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])[H:3],51.5469
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19])[H:17])[H:16])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])=[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:10])([H:11])[H:12],109.579
[C:0]([C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])([H:8])[H:9])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:3]1([H:10])[H:11],121.88
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]=[S:12])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:13])([H:14])[H:15])=[S:12],33.8904
[C:0]#[C:1][H:2].[H:3][H:4]>>[C:0](#[C:1][H:2])[H:4].[H:3],9.07928
[C:3]([H:4])([H:5])[H:6].[O:0]=[S:1]=[O:2]>>[O:0][S:1](=[O:2])[C:3]([H:4])([H:5])[H:6],5.4
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5](=[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])=[C:6]([H:18])[C:7]([H:19])[C:8]1([H:20])[H:21],86.1067
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:8])[H:9])[C:5]#[C:6][H:10])[H:7].[H:11]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:8])[H:9])([C:5]#[C:6][H:10])[H:11])[H:7],21.171
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([S:9][H:15])[C:10](=[S:11])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:12])([H:13])[H:14])([S:9][H:15])[C:10](=[S:11])[H:16],94.5584
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[H:17])[H:10])[H:9])([H:7])[H:8],6.98728
[C:0]([O:1])([H:2])([H:3])[H:4].[N:5](=[O:6])[H:7]>>[C:0]([O:1][H:7])([H:2])([H:3])[H:4].[N:5]=[O:6],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[C:6]1([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:9],164.557
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([S:23][H:29])[C:24](=[S:25])[H:30])([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:22]([C:21]([H:26])([H:27])[H:28])([S:23][H:29])[C:24](=[S:25])[H:30],71.7138
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[O:15][H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:14])([H:12])[H:13])([H:5])([H:6])[H:7].[H:8][O:15][H:16],-0.64852
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:18])([H:4])([H:5])[H:6].[C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])([H:19])[H:20],27.6144
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[S:5][H:15])[H:8])([H:6])[H:7].[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:6])[H:7].[S:5]([H:15])[H:16],7.1128
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28][C:29]([H:32])([H:33])[H:34])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28](=[C:27]([H:30])[H:31])[C:29]([H:32])([H:33])[H:34])[H:15])([H:13])[H:14],5.31368
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])=[C:3]([C:4]([H:15])([H:16])[H:17])[H:14])([H:7])([H:8])[H:9].[O:5][O:6][H:10],125.102
